US09126993B2
N-(1-aza-bicyclo[2.2.2]oct-3-yl)-2-biphenyl-4-yl-acetamide
Using general procedure I, 1-aza-bicyclo[2.2.2]oct-3-ylamine (200 mg, 1.00 mmol) and biphenyl-4-yl-acetic acid gave the title compound as a white solid (140 mg, 44%). 1H NMR (400 MHz, CD3OD) δ 7.56 (t, J=8.0 Hz, 4H), 7.29-7.41 (m, 5H), 4.19 (br s, 1H), 3.70 (t, J=7.2 Hz, 1H), 3.58 (s, 2H), 3.24-3.31 (m, 5H), 3.12-3.19 (m, 1H), 2.16-2.17 (m, 2H), 1.95-1.98 (m, 2H), 1.82 (br s, 1H) ppm. 13C NMR (400 MHz, CD3OD) δ 173.1, 140.8, 140.0, 134.7, 129.4, 128.7, 126.9, 52.3, 46.4, 45.9, 44.3, 41.9, 24.4, 21.5, 17.1 ppm. Purity: 93.9% HPLCMS (210 nm); retention time 2.87 min; (M+1) 321.

reactant | 1-aza-bicyclo[2.2.2]oct-3-ylamine | 1.00 mmol, 200 mg | N12CC(C(CC1)CC2)N | C7H14N2
reactant | biphenyl-4-yl-acetic acid | C1(=CC=C(C=C1)CC(=O)O)C1=CC=CC=C1 | C14H12O2
product | N-(1-aza-bicyclo[2.2.2]oct-3-yl)-2-biphenyl-4-yl-acetamide | 140 mg, 44% | N12CC(C(CC1)CC2)NC(CC2=CC=C(C=C2)C2=CC=CC=C2)=O | C21H24N2O
